US07091230B2
Ethyl 3-pyridylacetate (1.0 g, 1.0 eq) was dissolved in THF (50 mL) and cooled to −78° C. Lithium bis (trimethylsilyl) amide (6.66 mL, 1.1 eq) was added to the reaction and stirred for 20 minutes. Chlorotrimethylsilane (1.44 mL, 1.875 eq) was added at −78° C. and stirred for 20 minutes. N-bromosuccinimide (1.09 g, 1.01 eq) was added to the reaction mixture. The reaction mixture was allowed to stir and warm to room temperature overnight. The reaction mixture was diluted with H2O. The organic layer was extracted with ethyl acetate. The organic phase was dried over sodium sulfate and the solvent was evaporated to give a yellow oil. The resulting oil was chromatographed on silica gel using hexanes and ethyl acetate (1:1) to give ethyl 2-bromo-2(3-pyridyl)acetate.

reactant | Ethyl 3-pyridylacetate | 1.0 g, 1.0 eq | N1=CC(=CC=C1)CC(=O)OCC | C9H11NO2
reactant | Lithium bis (trimethylsilyl) amide | 6.66 mL, 1.1 eq | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | Chlorotrimethylsilane | 1.44 mL, 1.875 eq | Cl[Si](C)(C)C | C3H9ClSi
reactant | N-bromosuccinimide | 1.09 g, 1.01 eq | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | ethyl 2-bromo-2(3-pyridyl)acetate | BrC(C(=O)OCC)C=1C=NC=CC1 | C9H10BrNO2
